US05998624
1-(2-iodophenyl)-N-methyl-N-(3-hydroxypropyl)-3-isoquinolinecarboxamide (13)
To a solution of 1-(2-iodophenyl)-N-methyl-N-(3-triphenylmethoxy-propyl)-3-isoquinolinecarboxamide (107 mg, 0.16 mmol) in CH2Cl2 (10 mL) was added dropwise TFA (1 mL). The mixture was stirred at room temperature for 40 min. Then it was transferred into a separatory funnel and washed with saturated NaHCO3 solution (2×10 mL), water (20 mL), and brine (20 mL), then dried (MgSO4), and filtered. After removing the solvent in vacuo, the residue was purified on column (silica gel, 2% MeOH/CH2Cl2, 0.1% Et3N), thereby affording starting material (5.2 mg) and the titled compound (51.2 mg, 73%). mp 51-52° C. 1H NMR (CDCl3) d 1.78-1.95 (m, 2 H, CH2), 3.12, 3.19 (two s, total 3 H, N--Me), 3.52-3.74 (m, 3 H), 3.82-4.32 (m, 2 H), 7.19-7.31 (m, 1 H, aromatic), 7.35-7.42 (m, 1 H, aromatic), 7.48-7.63 (m, 3 H, aromatic), 7.72-7.81 (m, 2 H, aromatic), 8.17, 8.26 (two s, total 1 H, aromatic). HRMS Cacld. for C20H19IN2O: 446.0491. Found: 446.0501.

reactant | 1-(2-iodophenyl)-N-methyl-N-(3-triphenylmethoxy-propyl)-3-isoquinolinecarboxamide | 0.16 mmol, 107 mg | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)N(CCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H33IN2O2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-iodophenyl)-N-methyl-N-(3-hydroxypropyl)-3-isoquinolinecarboxamide | 51.2 mg, 73% | IC1=C(C=CC=C1)C1=NC(=CC2=CC=CC=C12)C(=O)N(CCCO)C | C20H19IN2O2
